US03954844
to a solution of 8 parts of (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oic acid in 175 parts of diethyl ether is added an ethereal solution of diazomethane prepared from 30 parts of N-nitrosomethylurea, 90 parts of aqueous 40% potassium hydroxide, and 210 parts of diethyl ether as described in Org. Syn., 15, 4 (1935). The resultant mixture is allowed to stand at 5° for 30 minutes, whereupon 2 parts of acetic acid is introduced and the mixture thus obtained extracted with diethyl ether. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residual red oil is taken up in benzene; and the benzene solution is chromatographed on silica gel, using benzene and mixtures thereof with increasing amounts of ethyl acetate as developing solvents. From an eluate comprising 30% ethyl acetate in benzene, on evaporation of solvent, methyl (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oate is obtained as a pale yellow oil.

reactant | (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oic acid | C(C)(=O)O[C@H](/C=C/[C@H]1C(C=C[C@@H]1C\C=C/CCCC(=O)O)O)CCCCC | C22H34O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-nitrosomethylurea | N(=O)CNC(=O)N | C2H5N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oate | C(C)(=O)O[C@H](/C=C/[C@H]1C(C=C[C@@H]1C\C=C/CCCC(=O)OC)O)CCCCC | C23H36O5
